US06248755B1
Step A: 1-(t-Butoxycarbonyl)-4-(2-(2-pyridinyl)hydrazino)carbonyl-piperidine
To a mixture of 2-hydrazinopyridine dihydrochloride (2.49 g, 13.7 mmol) and 1-Boc-piperidine-4-carboxylic acid (3.14 g, 13.7 mmol) in 30 mL of CH2Cl2 was added DIPEA (5.96 mL) followed by HOBT (2.22 g, 16.4 mmol) and EDC (3.93 g, 20.5 mmol) at rt. After stirring at rt for 18 h, the reaction mixture was partitioned between CH2Cl2 and water. The aqueous layer was extracted with CH2Cl2 (3×). Combined organic phase was washed with brine and dried over anhydrous MgSO4. Concentration under reduced pressure afforded the title compound (3.3 g) as a white solid. 1H NMR (500 MHz, CDCl3): δ 1.47 (s, 9H), 1.68-1.76 (m, 2H), 1.86-1.88 (m, 2H), 2.44 (m, 1H), 2.70-2.90 (br, 2H), 4.15-4.22 (br, 2H), 6.71 (d, J=8.5 Hz, 1H), 6.81 (t, J=6.4 Hz, 1H), 7.56 (m, 1H), 8.11 (d, J=5.0 Hz, 1H), 8.20˜8.55 (br s, 1H).

reactant | 2-hydrazinopyridine dihydrochloride | 13.7 mmol, 2.49 g | Cl.Cl.N(N)C1=NC=CC=C1
reactant | 1-Boc-piperidine-4-carboxylic acid | 13.7 mmol, 3.14 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | DIPEA | 5.96 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | 16.4 mmol, 2.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 20.5 mmol, 3.93 g
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(t-Butoxycarbonyl)-4-(2-(2-pyridinyl)hydrazino)carbonyl-piperidine | 3.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NNC1=NC=CC=C1 | C16H24N4O3
